US04515626
Production of 1-cyclopropylbutane-1,3-dione (intermediate)
Boron trifluoride gas is introduced for one hour at 40° C. into a mixture of 191 g of cyclopropanecarboxylic acid and 45 g of acetone. There is formed a black oily product, which is diluted with 800 ml of ether. The ether phase is then washed 4 times with 300 ml of water each time, and, with ice cooling, 30% sodium hydroxide solution is finally added until the pH value is ~9. The ether layer is separated, and the aqueous phase is extracted three times with 300 ml of ether each time. The ether phases are collected, dried over sodium sulfate, purified with active charcoal, filtered, and concentrated by evaporation. The oil which remains is purified by chromatography through a silica gel column with ether/hexane (1:3) as the eluant. The yield after removal of the solvent by evaporation is 22 g of the title compound as light-coloured oil; refractive index nD24 : 1.488.

reactant | Boron trifluoride | B(F)(F)F | BF3
reactant | cyclopropanecarboxylic acid | 191 g | C1(CC1)C(=O)O | C4H6O2
reactant | acetone | 45 g | CC(=O)C | C3H6O
solvent | ether | 800 ml | CCOCC | C4H10O
product | 1-cyclopropylbutane-1,3-dione | C1(CC1)C(CC(C)=O)=O | C7H10O2
